US08236792B2
(2S,4R)-(4-Benzyl-pyrrolidin-2-yl)-(4-cyclobutyl-[1,4]diazepan-1-yl)-methanone.
A solution of (2S,4R)-4-benzyl-2-(4-cyclobutyl-[1,4]diazepane-1-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (350.8 mg, 0.794 mmol) in CH2Cl2 (2 mL) was treated with TFA (0.5 mL). After 16 h, the mixture was concentrated and the residue was purified by FCC(CH2Cl2 to 10% MeOH/0.1% NH4OH in CH2Cl2) to give the title compound (266.3 mg, 98%). MS (ESI): mass calcd. for C21H31N3O, 341.25; m/z found, 342.3 [M+H]+. 1H NMR (CDCl3): 7.35-7.29 (m, 2H), 7.28-7.22 (m, 1H), 7.16 (d, J=7.9 Hz, 2H), 4.91-4.80 (m, 1H), 4.03-3.38 (m, 4H), 3.20-2.90 (m, 2H), 2.85-2.33 (m, 7H), 2.25-1.56 (m, 11H).

reactant | (2S,4R)-4-benzyl-2-(4-cyclobutyl-[1,4]diazepane-1-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.794 mmol, 350.8 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)CC1=CC=CC=C1)C(=O)N1CCN(CCC1)C1CCC1 | C26H39N3O3
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (2S,4R)-(4-Benzyl-pyrrolidin-2-yl)-(4-cyclobutyl-[1,4]diazepan-1-yl)-methanone | 266.3 mg, 98% | C(C1=CC=CC=C1)[C@@H]1C[C@H](NC1)C(=O)N1CCN(CCC1)C1CCC1 | C21H31N3O
